US09388176B2
4-Bromo-N-(3-(trifluoromethyl)phenyl)picolinamide
To a suspension of 4-bromo-pyridine-2-carboxylic acid (1.00 g, 5.00 mmol) in dimethylformamide (5 mL) was added 1-methylmorpholine (1.1 mL, 10 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl-uronium hexafluorophosphate (HATU) (2.37 g, 6.23 mmol). The mixture became an orange solution after 10 minutes. 3-Trifluoromethylaniline (0.5 mL, 5.5 mmol) was added and the solution was stirred at room temperature for 21 hours. The dimethylformamide was evaporated in vacuo and the residue was triturated with water. The resulting solid was filtered and washed twice with water and then vacuum dried at 40° C. to give a crude residue. Chromatography on silica gel (40 g), sample applied in dichloromethane and eluted with hexanes:ethyl acetate (1:1) gave the title compound (1.306 g, 76%).

reactant | 4-bromo-pyridine-2-carboxylic acid | 5.00 mmol, 1.00 g | BrC1=CC(=NC=C1)C(=O)O | C6H4BrNO2
reactant | 1-methylmorpholine | 10 mmol, 1.1 mL | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl-uronium hexafluorophosphate | 6.23 mmol, 2.37 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-Trifluoromethylaniline | 5.5 mmol, 0.5 mL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Bromo-N-(3-(trifluoromethyl)phenyl)picolinamide | 1.306 g, 76% | BrC1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C(F)(F)F | C13H8BrF3N2O
